US06743794B2
Phenylmethyl 2-(3-azidocyclohexyl)acetate (Cis Racemic)
To a solution of a compound from preparation 272 (9.71 g, 39.2 mmol), triphenylphosphine (12.32 g, 41.04 mmol), and hydrazoic acid (30.9 ml, at 1.9 M, 58.7 mmol) in toluene (120 ml) was added DEAD (9.24 ml, 58.7 mmol) dropwise and stirred for 72 h. The mixture was diluted with EtOAc, washed with 0.1 N NaOH, H2O, and brine, dried (MgSO4), and chromatographed (silica gel, CH2Cl2/hexanes gradient) to give the title compound (10.0 g, 93%). 1H NMR: consistent with structure.

reactant | triphenylphosphine | 41.04 mmol, 12.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrazoic acid | 58.7 mmol, 1.9 M, 30.9 ml | N=[N+]=[N-] | HN3
reactant | DEAD | 58.7 mmol, 9.24 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Phenylmethyl 2-(3-azidocyclohexyl)acetate | 10.0 g, 93% | N(=[N+]=[N-])C1CC(CCC1)CC(=O)OCC1=CC=CC=C1 | C15H19N3O2
